US07759337B2
A glass microwave reaction vessel was charged with nipecotamide (0.17 g, 1.4 mmol), 6-bromo-1-chlorophthalazine (0.110 g, 0.45 mmol), potassium carbonate (0.062g, 0.45 mmol) and 3 mL acetonitrile. The reaction mixture was stirred and heated in a Smith Synthesizer® microwave reactor (Personal Chemistry, Inc., Upssala, Sweden) at 190° C. for 20 min (watts, Powermax feature on, ramp time 1 min). The mixture was purified directly via flash chromatography (silica gel) eluting with 4/1 hexanes/EtOAc to 4/1 hexanes/EtOAc to give (0.15 g) 1-(6-bromophthalazin-1-yl)piperidine-3-carboxamide as a white solid. Found MS (ES+): 335, 337(M+H)+.

reactant | nipecotamide | 1.4 mmol, 0.17 g | N1CC(C(=O)N)CCC1 | C6H12N2O
reactant | 6-bromo-1-chlorophthalazine | 0.45 mmol, 0.110 g | BrC=1C=C2C=NN=C(C2=CC1)Cl | C8H4BrClN2
reactant | potassium carbonate | 0.45 mmol, 0.062g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 1-(6-bromophthalazin-1-yl)piperidine-3-carboxamide | 0.15 g | BrC=1C=C2C=NN=C(C2=CC1)N1CC(CCC1)C(=O)N | C14H15BrN4O
